US08957074B2
Following general N—C coupling procedure 1, 2-chloro-7-cycloheptyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide was combined with 4-(6-aminopyridin-3-yl)-1,4-diazabicyclo[3.2.2]nonan-3-one and gave 7-cycloheptyl-N,N-dimethyl-2-(5-(3-oxo-1,4-diazabicyclo[3.2.2]nonan-4-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (103 mg) in 77% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.73 (s, 1H), 8.66 (d, J=9.09 Hz, 1H), 8.17 (d, J=2.02 Hz, 1H), 8.14 (s, 1H), 7.55 (dd, J1=9.09 Hz, J2=2.53 Hz, 1H), 6.45 (s, 1H), 4.53 (m, 1H), 3.95 (s, 2H), 3.83 (m, 1H), 3.21 (m, 10H), 2.64 (m, 2H), 2.42 (m, 2H), 2.14-1.54 (m, 12H); HRMS m/z 517.3049 (M+H)+.

reactant | 2-chloro-7-cycloheptyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCCCC2 | C16H21ClN4O
reactant | 4-(6-aminopyridin-3-yl)-1,4-diazabicyclo[3.2.2]nonan-3-one | NC1=CC=C(C=N1)N1C(CN2CCC1CC2)=O | C12H16N4O
product | 7-cycloheptyl-N,N-dimethyl-2-(5-(3-oxo-1,4-diazabicyclo[3.2.2]nonan-4-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 103 mg, 77% yield | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C(CN1CCC2CC1)=O)C(=O)N(C)C | C28H36N8O2
